US07514461B2
3-(6-Hydroxy-2,7,8-trimethyl-4H-benzo[1,3]dioxin-2-yl)-propionic Acid Ethyl Ester
To a solution of 4-benzyloxy-6-hydroxymethyl-2,3-dimethyl-phenol (52 mg, 0.20 mmol), prepared as in Example 29, in 0.5 mL of dry DMF was added the above dimethyl ketal, 4,4-dimethoxy-pentanoic acid ethyl ester (420 mg, 2.2 mmol) and 5 mg of pyridinium p-toluene sulfonate (PPTS). The mixture was stirred for 48 h and concentrated. The crude product was purified on silica gel column chromatography (8:1 hexane/EtOAc) to afford a clear oil containing the desired product and starting ketal material. This mixture was then dissolved in EtOH (5 mL) and hydrogenated in the presence of 10 mg of Pd/C for 1.5 h at atmosphere pressure. After filtration the solution was concentrated and purified by chromatography (5:1 hexane/EtOAc) to afford 3-(6-hydroxy-2,7,8-trimethyl-4H-benzo[1,3]dioxin-2-yl)-propionic acid ethyl ester as a light brown sticky oil (38 mg). 1H-NMR (300 MHz, CDCl3) δ (ppm): 6.29 (s, 1H), 4.77 (s, 1H), 4.72 (q, J=14.9, 2H), 4.13 (q, J=7.2, 2H), 2.57-2.52 (m, 2H), 2.22-2.16 (m, 2H), 2.16 (s, 3H), 2.10 (s, 3H), 1.47 (s, 3H), 1.27 (t, J=7.2, 3H); 13C-NMR δ (ppm): 173.8, 147.2, 142.5, 126.0, 122.8, 116.5, 107.5, 99.5, 60.5, 33.9, 28.6, 21.8, 14.2, 11.9, 11.5.

reactant | 4-benzyloxy-6-hydroxymethyl-2,3-dimethyl-phenol | 0.20 mmol, 52 mg | C(C1=CC=CC=C1)OC1=C(C(=C(C(=C1)CO)O)C)C | C16H18O3
reactant | 4,4-dimethoxy-pentanoic acid ethyl ester | 2.2 mmol, 420 mg | C(C)OC(CCC(C)(OC)OC)=O | C9H18O4
reactant | pyridinium p-toluene sulfonate | 5 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3-(6-Hydroxy-2,7,8-trimethyl-4H-benzo[1,3]dioxin-2-yl)-propionic Acid Ethyl Ester | C(C)OC(CCC1(OC2=C(CO1)C=C(C(=C2C)C)O)C)=O | C16H22O5
